US06034248
Phenyl 4-[5-oxo-4-[4-(2,2,3,3-tetrafluoropropoxy)-phenyl]-1H,4H-1,2,4-triazol-1-yl]phenylcarbamate (5.6 g) was added to a mixture of ethanol (100 ml) and tetrahydrofuran (100 ml). To the resulting mixture was added hydrazine hydrate (3 g) with stirring. The resultant was stirred at 80° C. for 2 hours and concentrated under reduce pressure to about 20 ml. After water (100 ml) was added, the precipitated crystals were collected by filtration, washed with ethanol and dried under reduced pressure to give 4-[4-[5-oxo-4-[4-(2,2,3,3-tetrafluoropropoxy)phenyl]-1H,4H-1,2,4-triazol-1-yl]phenyl]semicarbazide (4.8 g, 98%) as colorless prisms.

reactant | Phenyl 4-[5-oxo-4-[4-(2,2,3,3-tetrafluoropropoxy)-phenyl]-1H,4H-1,2,4-triazol-1-yl]phenylcarbamate | 5.6 g | O=C1N(C=NN1C1=CC=C(C=C1)NC(OC1=CC=CC=C1)=O)C1=CC=C(C=C1)OCC(C(F)F)(F)F | C24H18F4N4O4
reactant | ethanol | 100 ml | C(C)O | C2H6O
reactant | hydrazine hydrate | 3 g | O.NN
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 4-[4-[5-oxo-4-[4-(2,2,3,3-tetrafluoropropoxy)phenyl]-1H,4H-1,2,4-triazol-1-yl]phenyl]semicarbazide | 4.8 g, 98% | O=C1N(C=NN1C1=CC=C(C=C1)NC(NN)=O)C1=CC=C(C=C1)OCC(C(F)F)(F)F | C18H16F4N6O3
